US04070471
3,4,5-Tris(4-pyridinylthio)-2,6-pyridinedicarbonitrile
In a 500 ml single-neck flask equipped with a magnetic stirrer and a reflux condenser fitted with a calcium chloride drying tube were placed 250 ml of methanol and 2.30 g (0.10 mol) of sodium metal. After all of the sodium had reacted, 11.11 g (0.10 mol) of 4-mercaptopyridine was added and the solution was allowed to stir for five minutes. To the resulting thiolate solution, 7.65 g (0.033 mol) of 3,4,5-trichloro-2,6-pyridinedicarbonitrile was added. The reaction mixture immediately became cloudy and orange in color. The reaction mixture was heated to reflux and then cooled. The methanol was removed in vacuo leaving a red-orange gum. Mixing of the gum with acetone, filtering off the solid and drying the latter afforded 6.89 g of the title compound as a yellow to orange powder, m.p. 186°-189° C (dec.). A 1.00 g sample was recrystallized from absolute ethanol to give a 0.25 g analytical sample as small, yellow-orange crystals, m.p. 186°-189° C (dec.). Anal. % Calcd. for C22H12N6S3 : C, 57.87; H, 2.65; N, 18.41. Found: C, 57.64; H, 2.59; N, 18.22.

reactant | methanol | 250 ml | CO | CH4O
reactant | sodium | 0.10 mol, 2.30 g | [Na] | Na
reactant | 4-mercaptopyridine | 0.10 mol, 11.11 g | SC1=CC=NC=C1 | C5H5NS
reactant | 3,4,5-trichloro-2,6-pyridinedicarbonitrile | 0.033 mol, 7.65 g | ClC=1C(=NC(=C(C1Cl)Cl)C#N)C#N | C7Cl3N3
solvent | acetone | CC(=O)C | C3H6O
product | 3,4,5-Tris(4-pyridinylthio)-2,6-pyridinedicarbonitrile | 6.89 g | N1=CC=C(C=C1)SC=1C(=NC(=C(C1SC1=CC=NC=C1)SC1=CC=NC=C1)C#N)C#N | C22H12N6S3
